US04775677
[3-Dodecyl-2-(dodecylimino)-4-oxo-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 16 from N,N'-didodecylthiourea (25.0 g, 61 mmoles) and acetylenedicarboxylic acid (7.3 g, 61 mmoles). Recrystallization from 2-propanol, then ethyl acetate gave the product (24.8 g), mp 71°-72° C.

reactant | N,N'-didodecylthiourea | 61 mmoles, 25.0 g | C(CCCCCCCCCCC)NC(=S)NCCCCCCCCCCCC | C25H52N2S
reactant | acetylenedicarboxylic acid | 61 mmoles, 7.3 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [3-Dodecyl-2-(dodecylimino)-4-oxo-5-thiazolidinylidene]acetic acid | 24.8 g | C(CCCCCCCCCCC)N1C(SC(C1=O)=CC(=O)O)=NCCCCCCCCCCCC | C29H52N2O3S
